US07507740B2
Production of N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-1H-pyrazolo[4,3-d]pyrimidin-7-amine
A mixture of 7-(methylthio)-1H-pyrazolo[4,3-d]pyrimidine (known compound from literature: J. Am. Chem. Soc., 1956, 78, 2418) (150 mg), 3-chloro-4-[(3-fluorobenzyl)oxy]aniline (227 mg) and pyridine hydrochloride (156 mg) in 1-methyl-2-pyrrolidone (3 mL) was stirred at 120° C. for 10 hrs. After the completion of the reaction, the mixture was diluted with ethyl acetate and washed with saturated aqueous sodium hydrogen carbonate and saturated brine. The organic layer was concentrated under reduced pressure, and the residue was subjected to silica gel column chromatography (hexane/ethyl acetate=1/3→1/10) to give the title compound (220 mg, yield 61%) as a pale-yellow solid.

reactant | 7-(methylthio)-1H-pyrazolo[4,3-d]pyrimidine | 150 mg | CSC=1C2=C(N=CN1)C=NN2 | C6H6N4S
reactant | 3-chloro-4-[(3-fluorobenzyl)oxy]aniline | 227 mg | ClC=1C=C(N)C=CC1OCC1=CC(=CC=C1)F | C13H11ClFNO
reactant | pyridine hydrochloride | 156 mg | Cl.N1=CC=CC=C1
solvent | 1-methyl-2-pyrrolidone | 3 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-1H-pyrazolo[4,3-d]pyrimidin-7-amine | 220 mg, yield 61% | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)C=NN2 | C18H13ClFN5O
